US07528120B2
To a solution of 2-nitro-benzoic acid 4-(4-benzyloxy-phenyl)-2-tert-butoxycarbonylamino-2-hydroxymethyl-butyl ester (105 mg, 0.19 mmol) in toluene (2 ml) is added 2,2 dimethoxypropane (0.06 ml, 0.57 mmol, 3 eq) and a catalytic amount of p-toluene sulfonic acid. The reaction mixture is stirred at 95° C. for 6 hours, then concentrated to dryness under negative pressure. 4-[2-(4-Benzyloxy-phenyl)ethyl]-2,2-dimethyl-4-(2-nitro-benzoyloxy-methyl)-oxazolidine-3-carboxylic acid tert-butyl ester is isolated as an oil (88 mg, 78%) after purification by flash chromatography (Ethyl acetate/Hexane (1/3)).

reactant | 2-nitro-benzoic acid 4-(4-benzyloxy-phenyl)-2-tert-butoxycarbonylamino-2-hydroxymethyl-butyl ester | 0.19 mmol, 105 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(COC(C1=C(C=CC=C1)[N+](=O)[O-])=O)(CO)NC(=O)OC(C)(C)C | C30H34N2O8
reactant | 2,2 dimethoxypropane | 0.57 mmol, 0.06 ml, 3 eq | COC(C)(C)OC | C5H12O2
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[2-(4-Benzyloxy-phenyl)ethyl]-2,2-dimethyl-4-(2-nitro-benzoyloxy-methyl)-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OCC1(COC(C1=C(C=CC=C1)[N+](=O)[O-])=O)CCC1=CC=C(C=C1)OCC1=CC=CC=C1)(C)C | C33H38N2O8
